US06180627B2
tert-butyl (2R)-2-({[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}methyl)-1-pyrrolidinecarboxylate
The title compound was prepared by a similar method to preparation 45 from 2-[3-({[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid [see preparation 54] and (3-methyl-1H-indol-5-yl)methylamine (72 mg, 0.45 mmol) [see preparation 36]. The crude product was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol (100:0) changing to (95:5) in 1% increments 1H-NMR indicated starting chloro compound material. A mixture of this product with 10% palladium on charcoal (39.6 mg) and ammonium formate (439.5 mg,6.98 mmol) in dichloromethane (50 ml), was then stirred at room temperature overnight. Additional, 10% Palladium on charcoal (49 mg) was added and the mixture was heated under reflux for 48 hrs, after which time the catalyst was filtered off and the solvent evaporated under reduced pressure. The residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer was separated and dried over MgSO4 and the solvent evaporated under reduced pressure to afford the title compound as a off-white solid, (44%).

reactant | 2-[3-({[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNC=1C(N(C(=CN1)C)CC(=O)O)=O | C17H26N4O5
reactant | (3-methyl-1H-indol-5-yl)methylamine | 0.45 mmol, 72 mg | CC1=CNC2=CC=C(C=C12)CN | C10H12N2
reactant | ammonium formate | 6.98 mmol, 439.5 mg | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 39.6 mg | [Pd] | Pd
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | Palladium on charcoal | 49 mg | [Pd] | Pd
product | tert-butyl (2R)-2-({[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}methyl)-1-pyrrolidinecarboxylate | 44% | CC=1N(C(C(=NC1)NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C | C27H36N6O4
